US07312233B2
(7-Nitro-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol
3.0 g of sodium hydrogen carbonate was suspended in 90 mL DMF. At 0° C. a solution of 5.15 g of 4-nitrocatechol was added dropwise over 15 min. Subsequently, 3.9 g of epichlorohydrin in 10 mL DMF were added over 15 min. Stirring was continued at room temperature, then at 80° C. overnight. The mixture was diluted with water and extracted three times with ethyl acetate, dried (anhyd. Na2SO4), filtered and concentrated under vacuum to give a yellow oil. The oil was purified by column chromatography on silica gel using EtOAc-hexanes (0-100% gradient) to give the product (2.8 g) as a yellow solid.

reactant | sodium hydrogen carbonate | 3.0 g | C(O)([O-])=O.[Na+]
reactant | 4-nitrocatechol | 5.15 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | epichlorohydrin | 3.9 g | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (7-Nitro-2,3-dihydro-benzo[1,4]dioxin-2-yl)-methanol | 2.8 g | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)CO)C1 | C9H9NO5
